US05661159
A mixture of 7-chloro-2-[6-[3-(ethoxycarbonyl)-propoxy]benzofuran-2-yl]quinoline (1.26 g) and potassium hydroxide (1.51 g) in a mixture of ethanol (12 ml) and water (6 ml) was stirred under reflux for one hour. After being cooled, the resulting precipitates were collected by filtration, washed with ethanol and added to water. The mixture was adjusted to pH 7 with diluted aqueous hydrochloric acid. The resulting crystals were collected by filtration, washed with water, and recrystallized from a mixture of acetic acid and methanol to give 7-chloro-2-[6-(3-carboxypropoxy)benzofuran-2-yl]quinoline (0.65 g).

reactant | 7-chloro-2-[6-[3-(ethoxycarbonyl)-propoxy]benzofuran-2-yl]quinoline | 1.26 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=CC(=C2)OCCCC(=O)OCC | C23H20ClNO4
reactant | potassium hydroxide | 1.51 g | [OH-].[K+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | 7-chloro-2-[6-(3-carboxypropoxy)benzofuran-2-yl]quinoline | 0.65 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=CC(=C2)OCCCC(=O)O | C21H16ClNO4
